* C:\Projects\Repositories\AMSOralBench\ltspice\ota\fully_differential_tele_casc.asc
* Generated by LTspice 24.1.10 for Windows.
M1 vop vb3 N004 N004 NMOS
M2 von vb3 N003 N003 NMOS
M3 N003 vip N005 N005 NMOS
M4 N004 vin N005 N005 NMOS
M5 N005 vtail 0 0 NMOS
C1 vop 0 1p
C2 von 0 1p
M6 von vb2 N001 N001 PMOS
M7 vop vb2 N002 N002 PMOS
M8 N001 vb1 VDD VDD PMOS
M9 N002 vb1 VDD VDD PMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lovel\AppData\Local\LTspice\lib\cmp\standard.mos
.backanno
.end
