* C:\Projects\Repositories\AMSOralBench\ltspice\ota\single_ended_high_swing_tele_casc.asc
* Generated by LTspice 24.1.10 for Windows.
M1 vop vb2 N005 N005 NMOS
M2 N001 vb2 N004 N004 NMOS
M3 N004 vip N006 N006 NMOS
M4 N005 vin N006 N006 NMOS
M5 N006 vtail 0 0 NMOS
C1 vop 0 1p
M6 vop vb1 N003 N003 PMOS
M7 N001 vb1 N002 N002 PMOS
M8 N003 N001 VDD VDD PMOS
M9 N002 N001 VDD VDD PMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lovel\AppData\Local\LTspice\lib\cmp\standard.mos
.backanno
.end
